US04351977
Bicyclo[10.3.0]pentadeca-1,12-diene(intermediate compound not isolated)
0.728 g (2 mmole) of 2-(3-phenylsulfonyl-prop-1-yl)-cyclododecanone and 0.560 g (5 mmole) of potassium tert-butoxide in 8 ml of toluene were heated to reflux for 1 hour in a reaction vessel fitted with a water separator. After cooling to 10°, addition of water (15 ml), extraction with ether (2×15 ml), washing of the organic layer with brine (15 ml), then with water, drying over Na2SO4, evaporation and final distillation (0.02 Torr--bath temperature: 140°) there were isolated 0.340 g (83% yield) of the desired compound.

reactant | 2-(3-phenylsulfonyl-prop-1-yl)-cyclododecanone | 2 mmole, 0.728 g | C1(=CC=CC=C1)S(=O)(=O)CCCC1C(CCCCCCCCCC1)=O | C21H32O3S
reactant | potassium tert-butoxide | 5 mmole, 0.560 g | CC(C)([O-])C.[K+]
reactant | water | O | H2O
reactant | water | 15 ml | O | H2O
reactant | ether | 15 ml | CCOCC | C4H10O
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | Bicyclo[10.3.0]pentadeca-1,12-diene | 0.340 g, 83% yield | C12=CCCCCCCCCCC2=CCC1 | C15H24
